US07144908B2
i) 1-(3-Iodophenyl)-3-methylimidazolidine-2,4-dione
1-(3-Iodophenyl)imidazolidine-2,4-dione (0.588 g) was suspended in water (13 ml) and treated with potassium hydroxide (0.37 g). The reaction was placed in a warming bath (45° C.) and treated with dimethyl sulfate (0.784 ml). After stirring for 4 h the reaction mixture was chilled and filtered. The cake was washed with water and dried to give the title compound (0.381 g). LCMS RT=2.94 min.

reactant | 1-(3-Iodophenyl)imidazolidine-2,4-dione | 0.588 g | IC=1C=C(C=CC1)N1C(NC(C1)=O)=O | C9H7IN2O2
reactant | potassium hydroxide | 0.37 g | [OH-].[K+]
reactant | dimethyl sulfate | 0.784 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 13 ml | O | H2O
product | 1-(3-Iodophenyl)-3-methylimidazolidine-2,4-dione | 0.381 g | IC=1C=C(C=CC1)N1C(N(C(C1)=O)C)=O | C10H9IN2O2
